US07214802B2
To a solution of 2-amino-5-iodopyridine (1.00 g; 4.55 mmol) in 10 mL of DMF was added 545 mg of 60% NaH (13.6 mmol) and 0.85 mL of iodomethane (13.6 mmol). The mixture was stirred for 14 h, and the mixture was neutralized with 1M HOAc. The mixture was extracted with Et2O, the extract was washed with water and brine, dried with MgSO4, filtered, and concentrated. Chromatography (0–25% EtOAc in hexanes) provided 700 mg (2.82 mmol) of (5-iodo-pyridin-2-yl)-dimethyl-amine.

reactant | 2-amino-5-iodopyridine | 4.55 mmol, 1.00 g | NC1=NC=C(C=C1)I | C5H5IN2
reactant | NaH | 13.6 mmol, 545 mg | [H-].[Na+]
reactant | iodomethane | 13.6 mmol, 0.85 mL | IC | CH3I
reactant | HOAc | 1M | CC(=O)O | C2H4O2
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-iodo-pyridin-2-yl)-dimethyl-amine | 2.82 mmol, 700 mg | IC=1C=CC(=NC1)N(C)C | C7H9IN2
